US07973056B2
Synthesis of (2R,3R)-2-(2,4-difluorophenyl)-3-(3-pyridin-2-ylpiperidin-1-yl)-1-(1,2,4-triazol-1-yl)butan-2-ol (I-12)
(2R,3S)-2-(2,4-Difluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane (0.87 g, 3.5 mmol) and 2-piperidin-3-ylpyridine (2.80 g, 17.26 mmol) were dissolved in acetonitrile (50 ml), and lithium perchlorate trihydrate (1.50 g, 9.3 mmol) was added thereto and refluxed for 40 hours. The solvent was evaporated under a reduced pressure, and the thus obtained residue was dissolved in ethyl acetate and washed with water. The solvent was again evaporated under a reduced pressure, and the residue was purified using a silica gel column to obtain 0.35 g of the intended substance (yield 35.7%).

reactant | (2R,3S)-2-(2,4-Difluorophenyl)-3-methyl-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane | 3.5 mmol, 0.87 g | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | 2-piperidin-3-ylpyridine | 17.26 mmol, 2.80 g | N1CC(CCC1)C1=NC=CC=C1 | C10H14N2
reactant | lithium perchlorate trihydrate | 9.3 mmol, 1.50 g | O.O.O.Cl(=O)(=O)(=O)[O-].[Li+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (2R,3R)-2-(2,4-difluorophenyl)-3-(3-pyridin-2-ylpiperidin-1-yl)-1-(1,2,4-triazol-1-yl)butan-2-ol | yield 35.7% | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)N1CC(CCC1)C1=NC=CC=C1)O | C22H25F2N5O
